US08633319B2
Intermediate 7: 5,7-Dichloro-1,6-naphthyridine
N-(2,6-Dichloro-4-pyridinyl)-2,2-dimethylpropanamide (1 g, 4.05 mmol) was taken up in THF (10 ml) under nitrogen and cooled to <−70° C. n-Butyl lithium (4.05 ml, 10.12 mmol, 2.5M solution in hexanes) was added over 30 min keeping the temperature below −60° C. and then stirred at below −70° C. for 1 h. (2E)-3-(dimethylamino)-2-propenal (0.607 ml, 6.07 mmol) in THF (2 ml) was added over 30 min keeping the temperature below −60° C. The reaction was stirred at below −70° C. for 20 min and then allowed to warm to room temperature. LCMS showed that no starting material remained so the reaction was quenched with 5M HCl (5 ml) and refluxed overnight. LCMS showed good conversion to product so the reaction was cooled to room temperature. The reaction mixture was basified with solid K2CO3 and extracted with EtOAc (4×25 ml). The combined organics were dried with Na2SO4, filtered and concentrated to yield a brown solid. The crude product was applied to a samplet and columned using a 40+M eluting with 12% diethyl ether in cyclohexane for 2 CVs, then with 12%-63% diethyl ether in cyclohexane over 10 CVs then held at 63% for SCVs. Appropriate fractions were combined and evaporated to give the title compound as a yellow solid (0.42 g).

reactant | N-(2,6-Dichloro-4-pyridinyl)-2,2-dimethylpropanamide | 4.05 mmol, 1 g | ClC1=NC(=CC(=C1)NC(C(C)(C)C)=O)Cl | C10H12Cl2N2O
reactant | n-Butyl lithium | 10.12 mmol, 2.5M, 4.05 ml | C(CCC)[Li]
reactant | (2E)-3-(dimethylamino)-2-propenal | 6.07 mmol, 0.607 ml | CN(/C=C/C=O)C | C5H9NO
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 5,7-Dichloro-1,6-naphthyridine | 0.42 g | ClC1=C2C=CC=NC2=CC(=N1)Cl | C8H4Cl2N2
